US09388189B2
(S)-1-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)urea
To a suspension of (S)-2-(1-((5-(6-amino-1H-indol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (50 mg, 0.08 mmol) in 403 μl water and 208 μl acetic acid was added potassium isocyanate (17 mg, 0.21 mmol) according to the method described in Preparation 181. The residue was purified using SP1® Purification System (0% to 100% hexane-ethyl acetate) to obtain 40 mg (75% yield) of the title compound.

reactant | (S)-2-(1-((5-(6-amino-1H-indol-4-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.08 mmol, 50 mg | NC1=CC(=C2C=CNC2=C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C35H39N9O2Si
reactant | potassium isocyanate | 0.21 mmol, 17 mg | [N-]=C=O.[K+]
solvent | water | 403 μl | O | H2O
solvent | acetic acid | 208 μl | C(C)(=O)O | C2H4O2
product | (S)-1-(4-(4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-1H-indol-6-yl)urea | 40 mg, 75% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1C1=C2C=CNC2=CC(=C1)NC(=O)N)COCC[Si](C)(C)C | C36H40N10O3Si
